US03957989
2,7-BIS(5-PIPERIDINOVALERYL)XANTHENE
A mixture of 30 g. (0.07 mole) of 2,7-bis(5-chlorovaleryl)-xanthene, 2 g of potassium iodide, 100 ml. of piperidine, and 200 ml. of tetrahydrofuran was heated and stirred at 100°C. for 24 hours. After cooling, the tetrahydrofuran was evaporated off and the resulting mixture was poured into water. The resulting solid was filtered off and recrystallized twice from heptane to give the desired product after drying at 80°C. under vacuum. M.P. 129°-130°C.

reactant | 2,7-bis(5-chlorovaleryl)-xanthene | 0.07 mole | ClCCCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCCCl)=O | C23H24Cl2O3
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,7-BIS(5-PIPERIDINOVALERYL)XANTHENE | N1(CCCCC1)CCCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCCN1CCCCC1)=O | C33H44N2O3
